US05493030
To a solution of 1-{2-[4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl]-1-(S)-[N-(1-(R)-methylbenzyl)carbamoyloxy]eth-1-yl}cyclopent-1-ene (9.0 g) and triethylamine (4.6 ml) in toluene (60 ml) was added trichlorosilane (2.5 ml) dropwise in toluene (20 ml). After addition, the reaction was submerged in an oil bath pre-heated to 110° C. and stirred for 15 minutes, then cooled to room temperature. The reaction was diluted with ethyl acetate (500 ml) and washed sequentially with aqueous ammonium chloride, dilute hydrochloric acid, aqueous sodium bicarbonate, brine, then dried over magnesium sulfate and evaporated onto 90 g of silica gel. This was placed on top of a silica gel column and eluted with 4:1 hexane:ethyl acetate to afford the product 1-[2-(4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-1-(S)-hydroxyeth-1-yl]cyclopent-1-ene, m.p. 112.0°-112.7° C. (ethyl acetate), [α]D =33.11 (CH3OH).

reactant | 1-{2-[4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl]-1-(S)-[N-(1-(R)-methylbenzyl)carbamoyloxy]eth-1-yl}cyclopent-1-ene | 9.0 g | [Si](C)(C)(C(C)(C)C)OC1=C2C(OCC2=C(C(=C1C[C@H](OC(NC[C@@]1(CC=CC=C1)C)=O)C1=CCCC1)OC)C)=O | C32H45NO6Si
reactant | triethylamine | 4.6 ml | C(C)N(CC)CC | C6H15N
reactant | trichlorosilane | 2.5 ml | Cl[SiH](Cl)Cl | Cl3HSi
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 1-[2-(4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-1-(S)-hydroxyeth-1-yl]cyclopent-1-ene | [Si](C)(C)(C(C)(C)C)OC1=C2C(OCC2=C(C(=C1C[C@H](O)C1=CCCC1)OC)C)=O | C23H34O5Si
